US07241785B2
A mixture of 5-[2-(4-hydroxyphenyl)ethyl]-4-methoxymethoxymethyl-2-phenyloxazole (3.12 g), 4-chloromethyl-5-methyl-2-phenyloxazole (2.28 g), potassium carbonate (1.27 g) and N,N-dimethylformamide (50 ml) was stirred at 90° C. for 15 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with dilute hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography, and 5-[2-[4-(5-methyl-2-phenyl-4-oxazolyl)methoxyphenyl]ethyl]-4-methoxymethoxymethyl-2-phenyloxazole (4.70 g, yield 85%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 124–125° C.

reactant | 5-[2-(4-hydroxyphenyl)ethyl]-4-methoxymethoxymethyl-2-phenyloxazole | 3.12 g | OC1=CC=C(C=C1)CCC1=C(N=C(O1)C1=CC=CC=C1)COCOC | C20H21NO4
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 2.28 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | potassium carbonate | 1.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-[2-[4-(5-methyl-2-phenyl-4-oxazolyl)methoxyphenyl]ethyl]-4-methoxymethoxymethyl-2-phenyloxazole | 4.70 g, yield 85% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCC1=C(N=C(O1)C1=CC=CC=C1)COCOC | C31H30N2O5
